US05521177
4'-[[2-Ethyl-4-methyl-6-[(2-dimethylamino-3,4-dioxo-1-cyclobuten-1-yl) -amino]-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 14b from 4'-[[2-ethyl-4-methyl-6-[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)-amino]-1H -benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)biphenyl and dimethylamine.

reactant | 4'-[[2-ethyl-4-methyl-6-[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)-amino]-1H -benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)biphenyl | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC2=C(C(C2=O)=O)OCC | C30H27N7O3
reactant | dimethylamine | CNC | C2H7N
product | 4'-[[2-Ethyl-4-methyl-6-[(2-dimethylamino-3,4-dioxo-1-cyclobuten-1-yl) -amino]-1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)NC2=C(C(C2=O)=O)N(C)C | C30H28N8O2
